US08877794B2
39.2 3-{1-[1-(4-Chlorophenyl)cyclobutyl]-2-nitroethyl}benzonitrile
3-Iodobenzonitrile (3.76 g, 16.41 mmol) dissolved in tetrahydrofuran (1.5 ml) was cooled to −30° C. A solution of isopropylmagnesium chloride in tetrahydrofuran (2 M, 8.84 ml, 17.67 mmol) was added dropwise at −30° C. over 25 min. The reaction mixture was cooled to −78° C. A solution of (E)-1-chloro-4(1-(2-nitrovinyl)cyclobutyl)benzene (3.0 g, 12.62 mmol) in tetrahydrofuran (0.5 ml) was added dropwise. Aqueous work-up yielded the desired product which was used without further purification for the next step. Yield: 3.3 g (8.71 mmol, 69%, purity: 90% by HPLC)

reactant | 3-Iodobenzonitrile | 16.41 mmol, 3.76 g | IC=1C=C(C#N)C=CC1 | C7H4IN
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | (E)-1-chloro-4(1-(2-nitrovinyl)cyclobutyl)benzene | 12.62 mmol, 3.0 g | ClC1=CC=C(C=C1)C1(CCC1)\C=C\[N+](=O)[O-] | C12H12ClNO2
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 17.67 mmol, 2 M, 8.84 ml | O1CCCC1 | C4H8O
product | 3-{1-[1-(4-Chlorophenyl)cyclobutyl]-2-nitroethyl}benzonitrile | ClC1=CC=C(C=C1)C1(CCC1)C(C[N+](=O)[O-])C=1C=C(C#N)C=CC1 | C19H17ClN2O2
